US08106215B2
2-Methyl-5-(3,4-difluoro-phenyl)-thiazole-4-carboxylic acid methyl ester
prepared by reaction of 3-chloro-3-(3,4-difluoro-phenyl)-2-oxo-propionic acid methyl ester with thioacetamide. LC-MS: tR=0.92 min; [M+H]+=270.29.

reactant | 3-chloro-3-(3,4-difluoro-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC(=C(C=C1)F)F)Cl)=O)=O | C10H7ClF2O3
reactant | thioacetamide | C(C)(=S)N | C2H5NS
product | 2-Methyl-5-(3,4-difluoro-phenyl)-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C1=CC(=C(C=C1)F)F)C | C12H9F2NO2S
